US09085583B2
To the solution of tert-butyl 2-methyl-1-(3-oxobutan-2-yl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylate (3.1 g, 10.25 mmol) in methanol (30 mL) was added sodium borohydride (0.30 g, 8.2 mmol) at 0° C. After 30 minutes, another batch of sodium borohydride (0.30 g, 8.2 mmol) was added at 0° C. After the reaction completed about 2 h later, water (30 ml) was added dropwise very carefully to quench the reaction. The mixture was extracted with CH2Cl2. The extraction was dried over Na2SO4, filtered and concentrated under vacuum to give tert-butyl 1-(3-hydroxybutan-2-yl)-2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylate as a yellow solid. (3.0 g, yield 96%) LCMS (M+H+) m/z: calcd 305.38. found 304.9. 1H NMR (400 MHz, CDCl3): ä 8.31-8.29 (m, 1H), 8.13-8.12 (m, 1H), 7.11-7.07 (m, 1H), 4.46-4.43 (m, 1H), 4.12 (m, 1H), 2.73 (s, 3H), 1.58 (s, 9H), 1.51-1.49 (d, 3H), 0.92-0.91 (d, 3H).

reactant | tert-butyl 2-methyl-1-(3-oxobutan-2-yl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylate | 10.25 mmol, 3.1 g | CC1=C(C=2C(=NC=CC2)N1C(C)C(C)=O)C(=O)OC(C)(C)C | C17H22N2O3
reactant | sodium borohydride | 8.2 mmol, 0.30 g | [BH4-].[Na+]
reactant | sodium borohydride | 8.2 mmol, 0.30 g | [BH4-].[Na+]
reactant | water | 30 ml | O | H2O
solvent | methanol | 30 mL | CO | CH4O
product | tert-butyl 1-(3-hydroxybutan-2-yl)-2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylate | yield 96% | OC(C(C)N1C(=C(C=2C1=NC=CC2)C(=O)OC(C)(C)C)C)C | C17H24N2O3
